US05780498
A solution of N-(3,5-dimethylbenzoyl)-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester (3,8 g) and methyliodide (1.8 ml) in dry N,N-dimethylformamide (40 ml) is cooled in an ice bath and sodium hydride (60% in oil, 390 mg) is added in portions. The mixture is allowed to warm to room temperature during 5 hours, then poured into water, extracted with ethyl acetate, the organic phase washed with water, and with brine, dried and evaporated. Flash chromatography of the residue on silica gel (hexane/ethyl acetate 3:1) gives pure N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester. NMR (CDCl3, 400 MHz) δ [ppm] 8.30 (d, broad, 1H), 7.75 (m, 2H), 7.41 (d, broad, 1H), 7.12 (d, broad, 1H), 6.97 (s, 0.5H), 6.93 (s, 0.5 H), 6.70 (s, 1H), 6.53 (d, broad, 1H), 6.36 (d, broad, 1H), 5.40 (m, 0.5H), 4.58 (m, 0.5H), 4.27 (m, 2H), 3.54 (m, 0.5H), 3.25 (m, 1H), 3.05 (m, 2H), 2.78 (s, 1.5H), 2.23 (s, 3H), 2.13 (s, 3H), 1.27 (m, 3H).

reactant | N-(3,5-dimethylbenzoyl)-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester | 3,8 g | C(C)OC([C@@H](NC(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)C1=CC=NO1)=O | C23H24N2O4
reactant | methyliodide | 1.8 ml | CI | CH3I
reactant | sodium hydride | 390 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-alanine ethyl ester | C(C)OC([C@@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)C1=CC=NO1)=O | C24H26N2O4
